US07691850B2
c) (±)-(3S,4S)/(3R,4R)-4-(aminomethyl)-1-(phenylmethyl)-3-pyrrolidinecarboxamide
Dissolve (3S,4R)-4-cyano-1-(phenylmethyl)-3-pyrrolidinecarboxamide (1.50 g, 6.55 mmol) in methanol (10 mL). Add NiCl 6H O (3.11 g, 13.1 mmol) followed by NaBH (0.99 g, 26.2 mmol) portionwise. The reaction was stirred for 2 hours, but it was not complete. Additional NaBH (0.5 g) was added and the reaction stirred another 1 hour. The solution was filtered through a plug of celite and washed with methanol. The solvent was evaporated under reduced pressure yielding a crude oil (1.51 g). LCMS: m/z 234.4 (MH+).

reactant | (3S,4R)-4-cyano-1-(phenylmethyl)-3-pyrrolidinecarboxamide | 6.55 mmol, 1.50 g | C(#N)[C@@H]1[C@@H](CN(C1)CC1=CC=CC=C1)C(=O)N | C13H15N3O
solvent | methanol | 10 mL | CO | CH4O
product | (3R,4R)-4-(aminomethyl)-1-(phenylmethyl)-3-pyrrolidinecarboxamide | 1.51 g | NC[C@H]1[C@H](CN(C1)CC1=CC=CC=C1)C(=O)N | C13H19N3O
